US07807672B2
Preparation of methyl 2-(methoxymethyl)acrylate
To a stirred mixture of methyl 2-(bromomethyl)acrylate (239 μl, 2 mmol) in petroleum ether (3 ml) was added potassium carbonate (276 mg, 2 mmol), followed by sodium methoxide (119 mg, 2.2 mmol) and methanol (450 μl). The resulting mixture was stirred overnight, filtered, concentrated to a residue that was purified by column chromatography eluting with 10% ether in hexanes to provide the title compound (150 mg, 58%). (Reference: J. Med. Chem.; 42; 15; 1999; 2760-2773.)

reactant | methyl 2-(bromomethyl)acrylate | 2 mmol, 239 μl | BrCC(C(=O)OC)=C | C5H7BrO2
reactant | potassium carbonate | 2 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium methoxide | 2.2 mmol, 119 mg | C[O-].[Na+]
solvent | methanol | 450 μl | CO | CH4O
product | methyl 2-(methoxymethyl)acrylate | 150 mg, 58% | COCC(C(=O)OC)=C | C6H10O3
